US06740670B2
2-Phenylethyl 2-(2-phenylethoxy)-5-formylbenzoate
(2-Bromoethyl)benzene (41 mL, 0.3 mol, 5 eq) was added to a stirred solution of 5-formylsalicylic acid (10 g, 0.06 mol, 1 eq), tetra-n-butylammonium iodide (44 g, 0.12 mol, 2 eq) and cesium carbonate (39 g, 0.12 mol, 2 eq) in N,N-dimethylformamide (200 mL). The reaction mixture was stirred for 4 days, then concentrated in vacuo. The residue was diluted with ethyl acetate (200 mL) and the organic solution washed with water (200 mL), 1M HCl (2×200 mL), 1M sodium hydroxide (2×200 mL) and then brine (200 mL), dried over sodium sulfate and evaporated in vacuo to give a brown oil. The product was not purified further, but taken immediately onto the next step. RF (petroleum ether:ethyl acetate, 1:1) 0.88. 1H NMR (CDCl3) δ9.88 (s, 1H, O═C—H), 8.23 (d, 1H, J 2.2 Hz, ArH), 7.98 (dd, 1H, J 8.7 and 2.2 Hz, ArH), 7.06 (d, 1H, J 8.7 Hz, ArH), 4.56 (t, 2H, J 7.2 Hz, OCH2CH2Ph), 4.33 (t, 2H, J 7.2 Hz, OCH2CH2Ph), 3.11 (t, 2H, J 7.2 Hz, OCH2CH2Ph), 3.03 (t, 2H, J 7.2 Hz, OCH2CH2Ph).

reactant | (2-Bromoethyl)benzene | 0.3 mol, 41 mL, 5 eq | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 5-formylsalicylic acid | 0.06 mol, 10 g, 1 eq | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | cesium carbonate | 0.12 mol, 39 g, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetra-n-butylammonium iodide | 0.12 mol, 44 g, 2 eq | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 2-Phenylethyl 2-(2-phenylethoxy)-5-formylbenzoate | C1(=CC=CC=C1)CCOC1=C(C(=O)OCCC2=CC=CC=C2)C=C(C=C1)C=O | C24H22O4
